US09029371B2
To a solution of BINAP (112.45 mg; 0.18 mmol) in degassed toluene (20 mL) was added 4-benzyl-2-(4-bromo-phenyl)-morpholine (1.00 g; 3.01 mmol), 2,6-dichloroaniline (0.49 g; 3.01 mmol), Pd2(dba)3 (55.12 mg; 0.06 mmol) and NaOtBu (0.29 g; 3.01 mmol). The resulting mixture was heated at 100° C. for 18 h. After cooling to RT the resulting mixture was filtered over kieselguhr, rinsed with CH2Cl2, and concentrated in vacuo. The residue was purified by column chromatography (Et2O:hexanes 1:3) to afford [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dichloro-phenyl)-amine (0.73 g).

reactant | BINAP | 0.18 mmol, 112.45 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-benzyl-2-(4-bromo-phenyl)-morpholine | 3.01 mmol, 1.00 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)Br | C17H18BrNO
reactant | 2,6-dichloroaniline | 3.01 mmol, 0.49 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | NaOtBu | 3.01 mmol, 0.29 g | CC(C)(C)[O-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.06 mmol, 55.12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dichloro-phenyl)-amine | 0.73 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)NC1=C(C=CC=C1Cl)Cl | C23H22Cl2N2O
